US06559152B2
Part D: To a stirred solution of 500 mg (1.35 mmol) of 5-amino-3-ethyl-1-(2,6-dichloro-4-carboethoxyphenyl) pyrazole-4-carboxamide in 10 mL ethanol was added 1.45 g (8.1 mmol) of methyl 4-methoxyphenylacetate followed by 2.6 mL (8.1 mmol) of 2.66 M sodium ehtoxide in ethanol. The reaction was heated at relux for 18 h and then 10% aq. HOAc was added. After stirring an additional hour at relux, the heat was removed and the reaction solution was poured into ice water, stirred 10 min. and filtered. The solid was washed with water and diethyl ether and dried to give 480 mg (75%) of 1-(2,6-dichloro-4-carboxyphenyl)-3-ethyl-6-(4-methoxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one, mp 277° C. Mass Spec.: (ES−) 471 (M−H)−.

reactant | 5-amino-3-ethyl-1-(2,6-dichloro-4-carboethoxyphenyl) pyrazole-4-carboxamide | 1.35 mmol, 500 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(=O)OCC)Cl)CC)C(=O)N | C15H16Cl2N4O3
reactant | methyl 4-methoxyphenylacetate | 8.1 mmol, 1.45 g | COC1=CC=C(C=C1)CC(=O)OC | C10H12O3
reactant | sodium | 8.1 mmol, 2.66 M, 2.6 mL | [Na] | Na
reactant | HOAc | CC(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(2,6-dichloro-4-carboxyphenyl)-3-ethyl-6-(4-methoxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one | 480 mg, 75% | ClC1=C(C(=CC(=C1)C(=O)O)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)OC)CC | C22H18Cl2N4O4
